US06121271
4-(2-Chlorobenzoyl)-2-ethylanisole
At ambient temperature, to a stirred solution containing aluminum chloride (20 g, 0.150 mol), 2-chlorobenzoylchloride (19 mL, 0.150 mol) in CH2Cl2 (100 mL) was added dropwise 2-ethylanisole (20.4 g, 0.150 mol). After 4 h, the reaction was diluted with CH2Cl2 (400 mL) washed with aq. KH2PO4 (2×200 mL), brine (1×200 mL), filtered though Celite and concentrated to give 38.82 g (94%) of the title compound. 1H NMR: consistent.

reactant | aluminum chloride | 0.150 mol, 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-chlorobenzoylchloride | 0.150 mol, 19 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 2-ethylanisole | 0.150 mol, 20.4 g | C(C)C1=C(C=CC=C1)OC | C9H12O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Chlorobenzoyl)-2-ethylanisole | 38.82 g, 94% | ClC1=C(C(=O)C2=CC(=C(C=C2)OC)CC)C=CC=C1 | C16H15ClO2
